US05916922
3-Methoxyphenol (287.4 g; 2.3 Mol), 316.0 g (2.0 Mol) of bromobenzene, 552 g (4.0 Mol) of K2CO3, 12.0 g (0.19 Mol) of activated copper (prepared according to Org. Syn. Coll. Vol. II, p 445-6), Cu(II) acetate hydrate 2.0 g (11 mMol), CuO powder (2.0 g; 25 mMol), and 2.0 g of copper sulfate (13 mMol) were combined in 1500 mL of dry pyridine. The resultant mixture was heated under reflux for 3 days. After cooling, the mixture was concentrated under reduced pressure, then treated with 6N HCl. Extraction was carried out with ether. The combined organics were washed with water, dilute NaOH, and water, then concentrated under reduced pressure. The residue was distilled in vacuo to give 3-phenoxyanisole, distilling at 138-40° C./2 mm pressure, 119 g (75% yield). H1NMR (CDCl3) d: 3.81 (s, 3 H), 6.61 (m, 2 H), 6.68 (d, J=7.8 Hz, 1 H), 7.06 (d, J=8.3, 2 H), 7.14 (t, J=7.4 Hz, 1 H), 7.25 (t, J=8.4 Hz, 1 H), 7.37 (t, J=7.8 Hz, 2 H).

reactant | 3-Methoxyphenol | 2.3 Mol, 287.4 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | bromobenzene | 2.0 Mol, 316.0 g | BrC1=CC=CC=C1 | C6H5Br
reactant | K2CO3 | 4.0 Mol, 552 g | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 1500 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper | 0.19 Mol, 12.0 g | [Cu] | Cu
catalyst | copper sulfate | 13 mMol, 2.0 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 3-phenoxyanisole | 75% yield | O(C1=CC=CC=C1)C=1C=C(C=CC1)OC | C13H12O2
